* Schematics Netlist *



R_R1         $N_0002 $N_0001  4k  
R_R2         $N_0001 $N_0003  7.5k  
R_R3         $N_0003 0  1.5k  
V_V1         $N_0002 0 6.5V
